US08003649B2
A mixture of 1-(6-bromonaphthalen-2-yl)sulfonylpiperazine and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-(6-bromonaphthalen-2-yl)sulfonylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-(6-bromonaphthalen-2-yl)sulfonylpiperazine | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15BrN2O2S
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-[4-(6-bromonaphthalen-2-yl)sulfonylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C20H16BrF3N6O2S
